US09193723B2
5-(3-aminooxetan-3-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiophene-2-carboxamide
5-(3-(1,1-Dimethylethylsulfinamido)oxetan-3-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiophene-2-carboxamide (432 mg, 1 mmol) in 10 ml methanol was treated with 4N aqueous HCl in dioxane (0.75 ml, 3 mmol) and the mixture was stirred for 2 hours. Concentration provided the title compound.

reactant | 5-(3-(1,1-Dimethylethylsulfinamido)oxetan-3-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiophene-2-carboxamide | 1 mmol, 432 mg | CC(C)(S(=O)NC1(COC1)C1=CC=C(S1)C(=O)NCC1=CC=2N(C=C1)C=CN2)C | C20H24N4O3S2
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 3 mmol, 0.75 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | 5-(3-aminooxetan-3-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiophene-2-carboxamide | NC1(COC1)C1=CC=C(S1)C(=O)NCC1=CC=2N(C=C1)C=CN2 | C16H16N4O2S
